US04281000
As for Example 1, 3-acetyl-6-methylpyridine is refluxed with N,N-dimethylformamide dimethylacetal to yield 3-dimethylamino-1-(6-methyl-3-pyridyl)-2-propen-1-one. The preceding compound is heated at reflux temperature for 6 hours with 3-amino-4-chloropyrazole in glacial acetic acid to give the product of the example.

reactant | 3-acetyl-6-methylpyridine | C(C)(=O)C=1C=NC(=CC1)C | C8H9NO
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3-dimethylamino-1-(6-methyl-3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC(=CC1)C)C | C11H14N2O
